US08614220B2
8-{2-[((S)-pyrrolidine-2-carbonyl)-amino]-phenylamino}-1-methyl-1H-pyrazolo[4,3-h]quinazoline-3-carboxamide (A25B1C1Z)
Ethyl 8-{2-[((S)—N-FMOC-pyrrolidine-2-carbonyl)-amino]-phenylamino}-1-methyl-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate (200 mg, 0.29 mmol) was suspended in 20 mL of ethanol and 20 mL of NH4OH 30% mixture. The mixture was maintained at 65° C. under stirring for 12 h in a closed bottle. The solvent was then evaporated to dryness, the residue redissolved with dichloromethane and washed with water. The organic layer was dried over Na2SO4 and evaporated. The crude product was purified by flash chromatography on silica gel (eluant: dichloromethane/methanol 94/6) to afford 60 mg (47% yield) of the title compound.

reactant | Ethyl 8-{2-[((S)—N-FMOC-pyrrolidine-2-carbonyl)-amino]-phenylamino}-1-methyl-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate | 0.29 mmol, 200 mg | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N1[C@@H](CCC1)C(=O)NC1=C(C=CC=C1)NC1=NC=2C3=C(C=CC2C=N1)C(=NN3C)C(=O)OCC | C39H35N7O5
reactant | NH4OH | 20 mL | [NH4+].[OH-]
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 8-{2-[((S)-pyrrolidine-2-carbonyl)-amino]-phenylamino}-1-methyl-1H-pyrazolo[4,3-h]quinazoline-3-carboxamide | 60 mg, 47% yield | N1[C@@H](CCC1)C(=O)NC1=C(C=CC=C1)NC1=NC=2C3=C(C=CC2C=N1)C(=NN3C)C(=O)N | C22H22N8O2
